### PR TITLE
feat(ModelTheory/Complexity): define literals

### PR DESCRIPTION
**Pull request by metinersin**
Defines `FirstOrder.Language.BoundedFormula.IsLiteral` and `FirstOrder.Language.BoundedFormula.simpleNot` - an auxiliary operation that takes the negation of a formula and does some simplification.

---

- [x] depends on: #16800 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by awainverse** [comment]
Rather than defining `simpleNotAux` as having values in `{ψ : L.BoundedFormula α n // ψ ⇔[∅] ∼φ}`,
I feel like it might be simpler to just define `simpleNot` directly, and then prove `simpleNot_semanticallyEquivalent_not` by induction. (This is how I defined `toPrenex`.)

At least - I think it might be easier to use, once `simpleNot` becomes a recursive definition, instead of the first part of a recursive definition, but clearly this way is compatible with your subsequent work, so it may be subjective.

**Comment by metinersin** [comment]
> Rather than defining `simpleNotAux` as having values in `{ψ : L.BoundedFormula α n // ψ ⇔[∅] ∼φ}`, I feel like it might be simpler to just define `simpleNot` directly, and then prove `simpleNot_semanticallyEquivalent_not` by induction. (This is how I defined `toPrenex`.)
> 
> At least - I think it might be easier to use, once `simpleNot` becomes a recursive definition, instead of the first part of a recursive definition, but clearly this way is compatible with your subsequent work, so it may be subjective.

I agree. Defining `simpleNot` directly is more beautiful. I did it this way because the math pattern inside it was a little more complicated originally, and the split tactic did not work against it. I will update the code.

File: Mathlib/ModelTheory/Complexity.lean [hunk 1]
```diff
@@ -1,19 +1,22 @@
...
 
-This file defines quantifier complexity of first-order formulas, and constructs prenex normal forms.
+This file defines quantifier complexity of first-order formulas, defines literals, and constructs
+prenex normal forms.
 
 ## Main Definitions
 
 - `FirstOrder.Language.BoundedFormula.IsAtomic` defines atomic formulas - those which are
   constructed only from terms and relations.
+- `FirstOrder.Language.BoundedFormula.IsLiteral` defines literals - those which are `⊥`, `⊤`,
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Complexity.lean:18]:
```suggestion
- `FirstOrder.Language.BoundedFormula.IsLiteral`: Predicate for a formula to be a literal, namely of the form `⊥`, `⊤`,
```
to avoid confusion with a *type* of literal formulas

File: Mathlib/ModelTheory/Complexity.lean [hunk 2]
```diff
@@ -26,6 +29,28 @@ This file defines quantifier complexity of first-order formulas, and constructs
...
+  constructed only from literals and disjunctions.
+- `FirstOrder.Language.BoundedFormula.IsDNF` defines formulas in disjunctive normal form - those
+  which are disjunctions of conjunctive formulas.
+- `FirstOrder.Language.BoundedFormula.IsCNF` defines formulas in conjunctive normal form - those
+  which are conjunctions of disjunctive formulas.
+- `FirstOrder.Language.BoundedFormula.toDNF_semanticallyEquivalent` shows that the disjunctive
+  normal form of a formula is semantically equivalent to the original formula.
+- `FirstOrder.Language.BoundedFormula.toCNF_semanticallyEquivalent` shows that the conjunctive
+  normal form of a formula is semantically equivalent to the original formula.
+- `FirstOrder.Language.BoundedFormula.IsDNF.components` which gives the literals of a DNF as
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Complexity.lean:50]:
```suggestion
- `FirstOrder.Language.BoundedFormula.IsDNF.components` gives the literals of a DNF as
```

File: Mathlib/ModelTheory/Complexity.lean [hunk 3]
```diff
@@ -26,6 +29,28 @@ This file defines quantifier complexity of first-order formulas, and constructs
...
+  a list of lists.
+- `FirstOrder.Language.BoundedFormula.IsCNF.components` which gives the literals of a CNF as
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Complexity.lean:52]:
```suggestion
- `FirstOrder.Language.BoundedFormula.IsCNF.components` gives the literals of a CNF as
```

File: Mathlib/ModelTheory/Complexity.lean [hunk 4]
```diff
@@ -44,6 +69,53 @@ open FirstOrder Structure Fin
 
 namespace BoundedFormula
 
+/-- An auxilary operation which is semantically equivalent to
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Complexity.lean:72]:
```suggestion
/-- An auxiliary operation which is semantically equivalent to
```

File: Mathlib/ModelTheory/Complexity.lean [hunk 5]
```diff
@@ -44,6 +69,53 @@ open FirstOrder Structure Fin
...
+  · rename_i φ ψ
+    simp only [realize_sup, realize_simpleNot φ, realize_not, realize_simpleNot ψ, realize_imp,
+      realize_falsum, imp_false, imp_iff_not_or, not_not]
+  · rename_i φ ψ
+    simp only [realize_inf, realize_simpleNot φ, realize_not, realize_simpleNot ψ, realize_imp,
+      realize_falsum, imp_false, imp_iff_not_or, not_or, not_not]
+  · rfl
+
+theorem simpleNot_semanticallyEquivalent_not {T : L.Theory} {n : ℕ} (φ : L.BoundedFormula α n) :
+    (φ.simpleNot ⇔[T] φ.not) := by
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Complexity.lean:115]:
```suggestion
    φ.simpleNot ⇔[T] φ.not := by
```

File: Mathlib/ModelTheory/Equivalence.lean [hunk 6]
```diff
@@ -194,6 +194,20 @@ protected theorem imp {φ ψ φ' ψ' : L.BoundedFormula α n} (h : φ ⇔[T] ψ)
     BoundedFormula.realize_imp]
   exact fun M v xs => imp_congr h.realize_bd_iff h'.realize_bd_iff
 
+protected theorem sup {φ ψ φ' ψ' : L.BoundedFormula α n}
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Equivalence.lean:197]:
```suggestion
protected theorem sup_congr {φ ψ φ' ψ' : L.BoundedFormula α n}
```
Also maybe you want to depend on @awainverse's PR which also proves this lemma

File: Mathlib/ModelTheory/Equivalence.lean [hunk 7]
```diff
@@ -216,15 +230,39 @@ theorem imp_iff_not_sup : (φ.imp ψ) ⇔[T] (φ.not ⊔ ψ) :=
 theorem sup_iff_not_inf_not : (φ ⊔ ψ) ⇔[T] (φ.not ⊓ ψ.not).not :=
   fun M v xs => by simp [imp_iff_not_or]
 
+theorem not_sup_semanticallyEquivalent_inf_not : (φ ⊔ ψ).not ⇔[T] (φ.not ⊓ ψ.not) :=
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Equivalence.lean:233]:
```suggestion
theorem not_sup_iff_inf_not : (φ ⊔ ψ).not ⇔[T] φ.not ⊓ ψ.not :=
```

File: Mathlib/ModelTheory/Equivalence.lean (hunk 6 above)
Comment (metinersin) [reply Mathlib/ModelTheory/Equivalence.lean:197]: This theorem is not used in this PR, so I can actually just remove it.

File: Mathlib/ModelTheory/Complexity.lean [hunk 8]
```diff
@@ -66,6 +138,42 @@ theorem IsAtomic.liftAt {k m : ℕ} (h : IsAtomic φ) : (φ.liftAt k m).IsAtomic
 theorem IsAtomic.castLE {h : l ≤ n} (hφ : IsAtomic φ) : (φ.castLE h).IsAtomic :=
   IsAtomic.recOn hφ (fun _ _ => IsAtomic.equal _ _) fun _ _ => IsAtomic.rel _ _
 
+protected theorem IsAtomic.simpleNot_eq_not {φ : L.BoundedFormula α n} (hφ : φ.IsAtomic) :
+    φ.simpleNot = ∼φ := by
+  induction hφ with
+  | equal t₁ t₂ => rfl
+  | rel R ts => rfl
+
+protected theorem IsAtomic.simpleNot_of_not_eq {φ : L.BoundedFormula α n} (hφ : φ.IsAtomic) :
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Complexity.lean:147]:
```suggestion
protected theorem IsAtomic.simpleNot_not {φ : L.BoundedFormula α n} (hφ : φ.IsAtomic) :
```

File: Mathlib/ModelTheory/Complexity.lean [hunk 9]
```diff
@@ -66,6 +138,42 @@ theorem IsAtomic.liftAt {k m : ℕ} (h : IsAtomic φ) : (φ.liftAt k m).IsAtomic
...
+
+/-- A literal is either `⊥`, `⊤`, an atomic formula or the negation of an atomic formula. -/
+inductive IsLiteral : L.BoundedFormula α n → Prop
+  | falsum : IsLiteral BoundedFormula.falsum
+  | of_isAtomic {φ : L.BoundedFormula α n} (h : φ.IsAtomic) : IsLiteral φ
+  | not_falsum : IsLiteral BoundedFormula.falsum.not
+  | of_not_of_isAtomic {φ : L.BoundedFormula α n} (h : φ.IsAtomic) : IsLiteral φ.not
+
+theorem IsAtomic.isLiteral {φ : L.BoundedFormula α n} (hφ : φ.IsAtomic) : IsLiteral φ :=
+  IsLiteral.of_isAtomic hφ
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Complexity.lean:161]:
```suggestion
  .of_isAtomic hφ
```

File: Mathlib/ModelTheory/Complexity.lean [hunk 10]
```diff
@@ -66,6 +138,42 @@ theorem IsAtomic.liftAt {k m : ℕ} (h : IsAtomic φ) : (φ.liftAt k m).IsAtomic
...
+
+protected theorem IsLiteral.simpleNot {φ : L.BoundedFormula α n} (hφ : φ.IsLiteral) :
+    φ.simpleNot.IsLiteral := by
+  induction hφ with
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Complexity.lean:165]:
```suggestion
protected theorem IsLiteral.simpleNot {φ : L.BoundedFormula α n} :
    φ.IsLiteral → φ.simpleNot.IsLiteral
```

File: Mathlib/ModelTheory/Equivalence.lean [hunk 11]
```diff
@@ -194,6 +194,13 @@ protected theorem imp {φ ψ φ' ψ' : L.BoundedFormula α n} (h : φ ⇔[T] ψ)
     BoundedFormula.realize_imp]
   exact fun M v xs => imp_congr h.realize_bd_iff h'.realize_bd_iff
 
+protected theorem inf {φ ψ φ' ψ' : L.BoundedFormula α n}
+    (h : φ ⇔[T] ψ) (h' : φ' ⇔[T] ψ') :
+    (φ ⊓ φ') ⇔[T] (ψ ⊓ ψ') := by
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Equivalence.lean:199]: Same as the one you removed, Aaron has this lemma in another PR

File: Mathlib/ModelTheory/Equivalence.lean [hunk 12]
```diff
@@ -216,15 +223,39 @@ theorem imp_iff_not_sup : (φ.imp ψ) ⇔[T] (φ.not ⊔ ψ) :=
 theorem sup_iff_not_inf_not : (φ ⊔ ψ) ⇔[T] (φ.not ⊓ ψ.not).not :=
   fun M v xs => by simp [imp_iff_not_or]
 
+theorem not_sup_iff_inf_not : (φ ⊔ ψ).not ⇔[T] φ.not ⊓ ψ.not :=
+  fun M v xs => by simp [imp_iff_not_or]
+
 theorem inf_iff_not_sup_not : (φ ⊓ ψ) ⇔[T] (φ.not ⊔ ψ.not).not :=
   fun M v xs => by simp
 
+theorem not_inf_semanticallyEquivalent_sup_not : (φ ⊓ ψ).not ⇔[T] (φ.not ⊔ ψ.not) :=
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Equivalence.lean:232]: It's not called `SemanticallEquivalent` anymore. Same below

File: Mathlib/ModelTheory/Syntax.lean [hunk 13]
```diff
@@ -366,11 +366,21 @@ protected def ex (φ : L.BoundedFormula α (n + 1)) : L.BoundedFormula α n :=
...
+  ⟨fun f g => f.inf g⟩
+
+/-- The disjunction of two bounded formulas is also a bounded formula. -/
+@[match_pattern]
+protected def sup (φ ψ : L.BoundedFormula α n) : L.BoundedFormula α n :=
+  φ.not.imp ψ
 
 instance : Sup (L.BoundedFormula α n) :=
-  ⟨fun f g => f.not.imp g⟩
+  ⟨fun f g => f.sup g⟩
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Syntax.lean:383]: What's the point of this change?

Comment (metinersin) [reply Mathlib/ModelTheory/Syntax.lean:383]: I defined separate `sup` and `inf` functions with a `match_pattern` tag because to be able to use pattern matching in the definition of `simpleNot`. Do you know how to make the expressions `φ ⊔ ψ` and `φ ⊓ ψ` matchable?

Comment (YaelDillies) [reply Mathlib/ModelTheory/Syntax.lean:383]: `attribute [match_pattern] Sup.sup Inf.inf`. You should add this in `Mathlib.Order.Notation` (and it can be a separate PR)

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
